US06008230
To a solution of 4-chloro-8-(2,6-dichlorobenzoylamino)-3-cyanoquinoline (300 mg) in N-methylpyrrolidone (6 ml) was dropwise added hydrazine monohydrate (399 mg), and the mixture was stirred for 2 hours at 90° C. Water (15 ml) was added thereto, the resulting precipitates were collected by filtration to give 3-amino-6-(2,6-dichlorobenzoylamino)-1H-pyrazolo[4,3-c]quinoline (260 mg).

reactant | 4-chloro-8-(2,6-dichlorobenzoylamino)-3-cyanoquinoline | 300 mg | ClC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C#N | C17H8Cl3N3O
reactant | hydrazine monohydrate | 399 mg | O.NN
reactant | Water | 15 ml | O | H2O
solvent | N-methylpyrrolidone | 6 ml | CN1C(CCC1)=O | C5H9NO
product | 3-amino-6-(2,6-dichlorobenzoylamino)-1H-pyrazolo[4,3-c]quinoline | 260 mg | NC1=NNC2=C1C=NC=1C(=CC=CC21)NC(C2=C(C=CC=C2Cl)Cl)=O | C17H11Cl2N5O
